US04164447
(6R,7R)-3-Carbamoyloxymethyl-7-[2(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid (syn isomer)
The process was repeated with ammonium (6R,7R)-3-acetoxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylate (syn isomer) (40 mg) as substrate and with the addition of pig liver acetylesterase (1 unit). Analysis of the product by TLC (silicachloroform/methanol/90% formic acid - 90:16:4) showed the presence of a new u.v. absorbing spot with an identical Rf to the standard sample of title compound.

reactant | ammonium (6R,7R)-3-acetoxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylate | 40 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(C(=NOC)C=2OC=CC2)=O)=O.[NH4+]
solvent | methanol | CO | CH4O
product | (6R,7R)-3-Carbamoyloxymethyl-7-[2(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(=NOC)C=2OC=CC2)=O)=O | C16H16N4O8S
